US07449467B2
3-(Methoxymethyl)tetrahydro-4H-pyran-4-one.
To a solution of diisopropylamine (6.1 g, 60 mmol) in THF (100 mL) cooled in an ice bath was added a 1.6 M solution of n-butyllithium in hexanes (37 mL, 60 mmol). The resulting solution was cooled to −78° C. To it was added tetrahydro-4H-pyran-4-one (5 g, 50 mmol) followed by phosphorous hexamethyltriamide (10 mL, 55 mmol). After 10 min, a solution of bromomethyl methyl ether (25 g, 200 mmol) in THF (50 mL) was added. Stirring was continued at 0° C. for 1 h and at room temperature overnight. The reaction was quenched by addition of a saturated solution of ammonium chloride in water. The resulting solution was extracted with ether three times. The combined extracts were dried over MgSO4 and concentrated. Flash chromatography on silica gel eluting with 20% ether/petroleum ether afforded the desired product (0.9 g oil). 1H NMR (CDCl3) δ 4.2 (2H, m), 4.1 (3H, s), 3.6-3.4 (4H, m), 2.4-2.3 (3H, m).

reactant | diisopropylamine | 60 mmol, 6.1 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | tetrahydro-4H-pyran-4-one | 50 mmol, 5 g | O1CCC(CC1)=O | C5H8O2
reactant | bromomethyl methyl ether | 200 mmol, 25 g | COCBr | C2H5BrO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(Methoxymethyl)tetrahydro-4H-pyran-4-one | 0.9 g | COCC1COCCC1=O | C7H12O3
